US07557213B2
Preparation of 7-(3,4-Dimethyl-benzoyl)-5-pyridin-4-ylmethyl-5H-[1,3]dioxolo[4,5-g]quinolin-8-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 71 mg (0.22 mmol) of 7-(3,4-dimethyl-benzoyl)-5H-[1,3]dioxolo[4,5-g]quinolin-8-one, 23 mg of 60% sodium hydride, 72 mg of 4-bromomethylpyridine hydrobromide and 1.3 mL of N,N-dimethylformamide. Yield: 61 mg of a white solid: LC-MSD, m/z for C25H20N2O4 [M+H]+=413.5; HPLC retention time: 1.2 min.

reactant | 7-(3,4-dimethyl-benzoyl)-5H-[1,3]dioxolo[4,5-g]quinolin-8-one | 0.22 mmol, 71 mg | CC=1C=C(C(=O)C2=CNC=3C=C4C(=CC3C2=O)OCO4)C=CC1C | C19H15NO4
reactant | sodium hydride | 23 mg | [H-].[Na+]
reactant | 4-bromomethylpyridine hydrobromide | 72 mg | Br.BrCC1=CC=NC=C1
solvent | N,N-dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
product | 7-(3,4-Dimethyl-benzoyl)-5-pyridin-4-ylmethyl-5H-[1,3]dioxolo[4,5-g]quinolin-8-one | CC=1C=C(C(=O)C2=CN(C=3C=C4C(=CC3C2=O)OCO4)CC4=CC=NC=C4)C=CC1C | C25H20N2O4
